US09315727B2
In a nitrogen atmosphere, metal magnesium (3.9 g) was suspended in THF (5 mL), a solution prepared by dissolving 4-bromo-3-fluoroanisole (30 g) in THF (150 mL) was added at a rate at which the solution was gently refluxed, and stirring was performed at 40° C. for one hour. Subsequently, the reaction liquid was cooled to 5° C. After a solution prepared by dissolving trimethyl borate (19.8 g) in THF (60 mL) was added thereto, stirring was performed at room temperature for one hour. Toluene (150 mL) and 10% hydrochloric acid (100 mL) were added thereto and the mixture was separated. Toluene (100 mL) was added to the resulting aqueous layer and extraction was performed. The obtained organic layers were mixed and washed with a saturated saline solution (100 mL). Anhydrous sodium sulfate was added to perform drying, and the organic solvent was distilled off under reduced pressure. Thus, a crude 2-fluoro-4-methoxyphenylboric acid (26.3 g) was obtained. (3-2) In a nitrogen atmosphere, 5,6,7-trifluoro-2-naphthol (30 g) and pyridine (15.6 g) were dissolved in dichloromethane (150 mL) and cooled to 5° C., and a solution prepared by dissolving trifluoromethanesulfonic acid anhydride (47.0 g) in dichloromethane (150 mL) was added thereto. After stirring was performed at room temperature for one hour, water (200 mL) was added and the mixture was separated. The resulting organic layer was washed with 10% hydrochloric acid (150 mL), an aqueous saturated sodium hydrogen carbonate solution (150 mL), and a saturated saline solution (150 mL). Anhydrous sodium sulfate was added to perform drying, and the organic solvent was distilled off under reduced pressure. Purification was performed by silica gel column chromatography to obtain 5,6,7-trifluoro-2-naphthyl trifluoromethanesulfonate (49.4 g). (3-3) In a nitrogen atmosphere, the 5,6,7-trifluoro-2-naphthyl trifluoromethanesulfonate obtained in (3-2) (40.0 g), tetrakis(triphenylphosphine)palladium (0) (1.4 g), a 2 mol/L aqueous potassium carbonate solution (120 mL), and THF (200 mL) were mixed with each other and heated to 60° C. A solution prepared by dissolving 2-fluoro-4-methoxyphenylboric acid (24.7 g) obtained in (3-1) in THF (100 mL) was added thereto, and stirring was performed at 60° C. for six hours. The temperature was decreased to room temperature. Toluene (150 mL) was added thereto and the mixture was separated. The resulting organic layer was washed with water (100 mL) and a saturated saline solution (100 mL). Anhydrous sodium sulfate was added to perform drying, and the organic solvent was distilled off under reduced pressure. The resulting residue was purified by silica gel column chromatography to obtain a crude 2-(2-fluoro-4-methoxyphenyl)-5,6,7-trifluoronaphthalene (35.1 g). (3-4) The crude 2-(2-fluoro-4-methoxyphenyl)-5,6,7-trifluoronaphthalene (35.1 g) obtained in (3-3) was dissolved in dichloromethane (350 mL) and cooled to 5° C., and boron tribromide (14.4 g) was added thereto. After stirring was performed at room temperature for three hours, the temperature was decreased to 5° C. Water (100 mL) was added thereto and the mixture was separated. The resulting organic layer was washed with a saturated saline solution (100 mL) twice. Anhydrous sodium sulfate was added to perform drying, and the organic solvent was distilled off under reduced pressure. The resulting residue was purified by alumina column chromatography and recrystallized using hexane to obtain 4-(5,6,7-trifluoro-2-naphthyl)-3-fluorophenol (25.3 g). (3-5) The subsequent processes were performed by the same method as in Example 1 to obtain [3,5-difluoro-4-(2-fluoro-4-(trans-4-propylcyclohexyl)phenyl)phenyl]-[3-fluoro-4-(5,6,7-trifluoro-2-naphthyl)phenyloxy]difluoromethane (49.9 g).

reactant | magnesium | 3.9 g | [Mg] | Mg
reactant | 4-bromo-3-fluoroanisole | 30 g | BrC1=C(C=C(C=C1)OC)F | C7H6BrFO
reactant | trimethyl borate | 19.8 g | B(OC)(OC)OC | C3H9BO3
reactant | hydrochloric acid | 100 mL | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | Toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | 2-fluoro-4-methoxyphenylboric acid | 26.3 g | FC1=C(C=CC(=C1)OC)OB(O)O | C7H8BFO4
